US06680282B2
26.6 Grams of 6-bromo-4-hydroxy-2,3,8-trimethylquinoline synthesized in the same way as that described in Example 1 was suspended in 70 ml of dimethylformamide, to which 4.4 g of 60% sodium hydride was added under cooling with ice and then the mixture was stirred at room temperature for 30 minutes. 19 Grams of benzyl bromide was added dropwise to the reaction mixture under cooling with ice and the mixture was allowed to react at room temperature overnight. After 50 ml of water was added, the reaction mixture was extracted with ethyl acetate and the organic layer was washed with a saturated brine and dried over anhydrous sodium sulfate overnight. After the solvent was evaporated under reduced pressure, the resultant crude product was purified by column chromatography on silica gel (WAKOGEL® C-200) eluting with n-hexane/ethyl acetate (6:1) to obtain 24.3 g of 4-benzyloxy-6-bromo-2,3,8-trimethylquinoline.

reactant | 6-bromo-4-hydroxy-2,3,8-trimethylquinoline | BrC=1C=C2C(=C(C(=NC2=C(C1)C)C)C)O | C12H12BrNO
reactant | sodium hydride | 4.4 g | [H-].[Na+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxy-6-bromo-2,3,8-trimethylquinoline | 24.3 g | C(C1=CC=CC=C1)OC1=C(C(=NC2=C(C=C(C=C12)Br)C)C)C | C19H18BrNO
